US05753664
3-Methyl-2-[4-(4-trifluoromethylbenzoyl) benzylthio]-thieno[3,2-d]pyrimidin-4(3H)-one
To a solution of 2-mercapto-3-methylthieno[3,2-d]-pyrimidin-4(3H)-one (1.0 g) and 1N-sodium hydroxide/water (5.1 mg) in ethanol (10 ml) was added 4-(4-trifluoromethylbenzoyl)benzyl bromide (1.73 g) and the mixture was stirred at 60° C. for 1 hour. This reaction mixture was poured in water and the resulting crystals were collected by filtration, rinsed with water, and recrystallized from ethyl acetate-hexane to provide the title compound as colorless solid (1.11 g).

reactant | 2-mercapto-3-methylthieno[3,2-d]-pyrimidin-4(3H)-one | 1.0 g | SC=1N(C(C2=C(N1)C=CS2)=O)C | C7H6N2OS2
reactant | 4-(4-trifluoromethylbenzoyl)benzyl bromide | 1.73 g | FC(C1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1)(F)F | C15H10BrF3O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | sodium hydroxide water | 5.1 mg | [OH-].[Na+].O
product | 3-Methyl-2-[4-(4-trifluoromethylbenzoyl) benzylthio]-thieno[3,2-d]pyrimidin-4(3H)-one | 1.11 g | CN1C(=NC2=C(C1=O)SC=C2)SCC2=CC=C(C=C2)C(C2=CC=C(C=C2)C(F)(F)F)=O | C22H15F3N2O2S2
